US05650533
A mixture of methyl 3-iodo-2-methyl-6-methylsulphenyl-benzoate (16.6 g) and cuprous cyanide (4.4 g) in dimethyl formamide (50 ml) was stirred and heated at 150° C. for 1 hour. The mixture was cooled to 90° C. and a solution of ferric chloride (18 g) in water (28 ml) and concentrated hydrochloric acid (5 ml) was added. The mixture was stirred and heated at 90° C. for 1 hour. The cooled mixture was filtered and the solid was washed with ether. The layers in the filtrate were separated and the aqueous layer was extracted with ether (100 ml). The combined organic layers were washed with water (2×100 ml), aqueous sodium sulphate solution (10%, 2×100 ml), water (2×100 ml), aqueous sodium hydroxide solution (2×100 ml), water (3×100 ml), dried (anhydrous MgSO4) and filtered. The filtrate was evaporated to dryness to give methyl 3-cyano-2-methyl-6-methylsulphenylbenzoate (10.0 g) as a brown oil NMR (CDCl3) 2.5(s,6H), 3.9(s,3H), 7.05(d,1H), 7.45(d,1H).

reactant | methyl 3-iodo-2-methyl-6-methylsulphenyl-benzoate | 16.6 g | IC=1C(=C(C(=O)OC)C(=CC1)SC)C | C10H11IO2S
reactant | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 28 ml | O | H2O
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | methyl 3-cyano-2-methyl-6-methylsulphenylbenzoate | 10.0 g | C(#N)C=1C(=C(C(=O)OC)C(=CC1)SC)C | C11H11NO2S
